US07192943B2
To a solution of tert-butyl (5S)-5-amino-6-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-6-oxohexylcarbamate (3.06 g) and triethylamine (1.09 g) in chloroform (30 ml) was added di-tert-butyl dicarbonate (2.36 g). The mixture was stirred at room temperature for 14 hours. The reaction mixture was washed with brine, and the organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give a crude product of di-tert-butyl (1S)-{1-[(5-amino-1-methyl-1H-pyrazol-4-yl)carbamoyl]pentamethylene}-biscarbamate as an oil. The crude product was used directly in the next step without further purification.

reactant | tert-butyl (5S)-5-amino-6-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-6-oxohexylcarbamate | 3.06 g | N[C@@H](CCCCNC(OC(C)(C)C)=O)C(=O)NC=1C=NN(C1N)C | C15H28N6O3
reactant | triethylamine | 1.09 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.36 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | di-tert-butyl (1S)-{1-[(5-amino-1-methyl-1H-pyrazol-4-yl)carbamoyl]pentamethylene}-biscarbamate | NC1=C(C=NN1C)NC(=O)[C@H](CCCCNC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O | C20H36N6O5
